US04518597
6-[3-(4-Cyclohexyl-phenylmercapto)-propoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(3-chloropropoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-cyclohexyl-thiophenol.

reactant | 6-(3-chloropropoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C13H16ClNO3
reactant | 4-cyclohexyl-thiophenol | C1(CCCCC1)C1=CC=C(C=C1)S | C12H16S
product | 6-[3-(4-Cyclohexyl-phenylmercapto)-propoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | C1(CCCCC1)C1=CC=C(C=C1)SCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C25H31NO3S
